US07410972B2
5-Chloro-N-[6-chloro-3-(5-methyl-3-isoxazolylmethoxy)2-pyrazinyl]-2-thiophenesulphonamide
Prepared by the method of Example 20b using (5-methyl-3-isoxazolyl)methanol and 5-chloro-N-(3-bromo-6-chloro-2-pyrazinyl)-2-thiophenesulphonamide.

reactant | (5-methyl-3-isoxazolyl)methanol | CC1=CC(=NO1)CO | C5H7NO2
reactant | 5-chloro-N-(3-bromo-6-chloro-2-pyrazinyl)-2-thiophenesulphonamide | ClC1=CC=C(S1)S(=O)(=O)NC1=NC(=CN=C1Br)Cl | C8H4BrCl2N3O2S2
product | 5-Chloro-N-[6-chloro-3-(5-methyl-3-isoxazolylmethoxy)2-pyrazinyl]-2-thiophenesulphonamide | ClC1=CC=C(S1)S(=O)(=O)NC1=NC(=CN=C1OCC1=NOC(=C1)C)Cl | C13H10Cl2N4O4S2
